US06803476B2
6.123 g (0.0651 mol) sodium acrylate is dissolved to 25 mL THF and cooled to −70° C. 12.8 mL (0.0651 mol, 12.938 g) chlorotriethoxysilane in THF (15 mL) is added dropwise to reaction solution. The solution is stirred for over night allowing it to warm up to room temperature. NaCl is removed by filtration and solution evaporated to dryness to result clear liquid, acryltriethoxysilane.

reactant | sodium acrylate | 0.0651 mol, 6.123 g | C(C=C)(=O)[O-].[Na+]
reactant | chlorotriethoxysilane | 0.0651 mol, 12.8 mL, 12.938 g | Cl[Si](OCC)(OCC)OCC | C6H15ClO3Si
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | acryltriethoxysilane | C(=O)(C=C)[Si](OCC)(OCC)OCC | C9H18O4Si
